US04294960
7-[2-{2-(2,2,2-Trifluoroacetamido)-4-thiazolyl}--2-methoxyiminoacetamido]-2,3-dimethyl-3-cephem-4-carboxylic acid (syn isomer, 0.86 g.) was dissolved in an aqueous solution (9 ml.) containing sodium acetate trihydrate (2.3 g.), and the solution was stirred at room temperature for 19 hours. After removing the insoluble substance from the resultant mixture by filtration, the filtrate was adjusted to around pH 2.5 with 10% hydrochloric acid under ice-cooling. The precipitates were collected by filtration, washed with water and dried to give 7-{2-(2-amino-4-thiazolyl)-2-methoxyiminoacetamido}-2,3-dimethyl-3-cephem-4-carboxylic acid (syn isomer, 0.16 g.).

reactant | 7-[2-{2-(2,2,2-Trifluoroacetamido)-4-thiazolyl}--2-methoxyiminoacetamido]-2,3-dimethyl-3-cephem-4-carboxylic acid | 0.86 g | FC(C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(C(S2)C)C)C(=O)O)C1=O)=NOC)(F)F | C17H16F3N5O6S2
reactant | sodium acetate trihydrate | 2.3 g | O.O.O.C(C)(=O)[O-].[Na+]
product | 7-{2-(2-amino-4-thiazolyl)-2-methoxyiminoacetamido}-2,3-dimethyl-3-cephem-4-carboxylic acid | 0.16 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(C(S2)C)C)C(=O)O)C1=O)=NOC | C15H17N5O5S2
